US05514679
c) 3-(5-methyl-2-furanyl)propanol (Example 1a, 6a and 12a)
To a solution of ethyl 3-(5-methyl-2-furanyl)propionate (3.6 g, 20 mmol) in 50 mL of THF at 0° C. was added dropwise under nitrogen 8 mL of diisobutylaluminum hydride (1M in hexane), and the mixture was stirred at room temperature over-night. The resulting solution was diluted with 2 mL of water in 10 mL of THF and brine, and the mixture was stirred for 30 min. The solid was removed by filtration, and the filtrate was diluted with 20 mL of water, extracted with methylene chloride. The organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by passing through MPLC column (ethyl acetate/hexane) to afford 1.11 g of the desired product.

reactant | ethyl 3-(5-methyl-2-furanyl)propionate | 20 mmol, 3.6 g | CC1=CC=C(O1)CCC(=O)OCC | C10H14O3
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-(5-methyl-2-furanyl)propanol | 1.11 g | CC1=CC=C(O1)CCCO | C8H12O2
